US06660751B1
2,4,5-Trichloro-N-ethyl-N(2-hydroxyethyl)-benzene Sulfonamide (D5)
The title compound was prepared from 2-ethylamino ethanol and 2,4,5trichlorophenylsulfonylchloride using the method described in Description 1.

reactant | 2-ethylamino ethanol | C(C)NCCO | C4H11NO
reactant | 2,4,5trichlorophenylsulfonylchloride | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,5-Trichloro-N-ethyl-N(2-hydroxyethyl)-benzene Sulfonamide | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)N(CCO)CC | C10H12Cl3NO3S
